US08877742B2
2-(6-bromo-5-fluoro-1H-indol-1-yl) ethanol
Methyl 2-(6-bromo-5-fluoro-1H-indol-1-yl)acetate (D77) (10.2 g, 35.7 mmol) was dissolved up in 81 mL of THF and cooled in a cardice/acetone bath before the addition of LiAlH4 (2N in THF solution) (17.83 mL, 35.7 mmol). The reaction mixture was left to stir in the cardice/acetone bath for 30 mins. Whilst still in the bath the reaction mixture was quenched by the dropwise addition of saturated sodium sulfate aqueous solution. The solid formed was filtered off and washed with ethyl acetate. The filtrate was washed with brine. The organic layer was passed through a hydrophobic frit and concentrated to afford title compound (8.852 g). LCMS (A): m/z (M+H)+ 258/260, C10H9BrFNO requires 257/259 (acidic).

reactant | Methyl 2-(6-bromo-5-fluoro-1H-indol-1-yl)acetate | 35.7 mmol, 10.2 g | BrC1=C(C=C2C=CN(C2=C1)CC(=O)OC)F | C11H9BrFNO2
reactant | LiAlH4 | 35.7 mmol, 2N, 17.83 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | cardice acetone | C(=O)=O.CC(=O)C
solvent | THF | 81 mL | C1CCOC1 | C4H8O
product | 2-(6-bromo-5-fluoro-1H-indol-1-yl) ethanol | 8.852 g | BrC1=C(C=C2C=CN(C2=C1)CCO)F | C10H9BrFNO
